US07732504B2
Synthesis of 2-Dimethylamino-2-ethyl-1-{4-[(2-hydroxy-ethyl)-methyl-amino]-phenyl}-pent-4-en-1-one
In a 300 ml sulfonation under argon atmosphere, 2.90 g (10 mmol) of 2-dimethylamino-2-ethyl-1-[4-(2-hydroxy-ethylamino)-phenyl]-pent-4-en-1-one are dissolved in 55 ml THF and 137 ml acetonitrile. 4.5 ml (60 mmol) of a 37% aqueous formaldehyde solution are added over 10 min. at 25° C., followed by 2.21 g (30 mmol) of sodium cyanoborohydride. After 10 min at 25° C., the mixture is stirred at 50° C. for 4 h, cooled to room temperature and diluted with 100 ml water. The yellow semi-solid is redissolved in methylene chloride, washed with 20 ml of aq. sat. NaHCO3 and water, the organic phase dried with brine and sodium sulfate, and evaporated under vacuum to give 2.3 g (75%) of the title compound as a yellow oil.

reactant | 2-dimethylamino-2-ethyl-1-[4-(2-hydroxy-ethylamino)-phenyl]-pent-4-en-1-one | 10 mmol, 2.90 g | CN(C(C(=O)C1=CC=C(C=C1)NCCO)(CC=C)CC)C | C17H26N2O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 30 mmol, 2.21 g | C(#N)[BH3-].[Na+]
solvent | THF | 55 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 137 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Dimethylamino-2-ethyl-1-{4-[(2-hydroxy-ethyl)-methyl-amino]-phenyl}-pent-4-en-1-one | 2.3 g, 75% | CN(C(C(=O)C1=CC=C(C=C1)N(C)CCO)(CC=C)CC)C | C18H28N2O2
